US04367234
5-(2-Fluoro-6-methoxyphenyl)oxazolidine-2,4-dione
5-(2,6-Difluorophenyl)oxazolidine-2,4-dione (2.0 g., 9.4 mmoles) was dissolved in 50 ml. of dimethylsulfoxide. Methanol (5 ml.) and then potassium tert-butoxide (2.11 g., 18.8 mmoles) were then added and the reaction mixture heated in an oil bath maintained at 155° C. for 4 hours. The reaction mixture was cooled to room temperature, poured into 200 ml. of 1 N hydrochloric acid and extracted with three portions of ethyl acetate. The combined organic extracts were washed with water and then brine, dried over anhydrous magnesium sulfate, filtered and concentrated to solids. The solids were taken up in 1 N sodium hydroxide, and the solution washed with three portions of ethyl acetate and then acidified with 1 N hydrochloric acid to precipitate purified 5-(2-fluoro-6-methoxyphenyl)oxazolidine-2,4-dione (1.32 g., 62%; m.p. 138°-142° C.). For analysis, the product was recrystallized from toluene (930 mg. recovered; m.p. 139°-141° C.)

reactant | 5-(2,6-Difluorophenyl)oxazolidine-2,4-dione | 9.4 mmoles, 2.0 g | FC1=C(C(=CC=C1)F)C1C(NC(O1)=O)=O | C9H5F2NO3
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | potassium tert-butoxide | 18.8 mmoles, 2.11 g | CC(C)([O-])C.[K+]
solvent | Methanol | 5 ml | CO | CH4O
product | 5-(2-Fluoro-6-methoxyphenyl)oxazolidine-2,4-dione | FC1=C(C(=CC=C1)OC)C1C(NC(O1)=O)=O | C10H8FNO4
